* Z:\home\abram\documents\psu\ECE411\project\hareproject\simulations\simple_VCF_simulation.asc
XU1 N006 N004 Vb 0 NC_01 NC_02 NC_03 Vcc BA4580R
V1 Vcc 0 9.6V
R1 Vcc Vb 10k
R2 Vb 0 10k
C1 Vcc 0 100µ
C2 Vb 0 10µ
C3 N008 N007 0.47µ
R3 N004 N008 47k
V2 N007 0 SINE(0 0.1 1k) AC 1
C4 N003 N004 0.1µ
C5 N005 N003 0.1µ
C6 Vout N006 1µ
R4 Vout 0 100k
R5 N006 N005 1k
R6 N006 N004 100k
D1 N003 0 1N4148
V3 CV 0 {Vc} Rser=4
R7 N003 CV 1k
R8 N002 N001 1k
R9 N001 0 50k
R10 Vcc N001 50k
.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.ac oct 1000 1 100MEG
.step param Vc 1 5 1
.lib Z:\home\abram\documents\ltspice\BA4580R_Rev002.lib
.backanno
.end
